US04833134
In 75 ml of ethanol was suspended 2.78 g of 4-mercaptopyridine, to which was added, while stirring under ice-cooling, 2.0 g of sodium hydride (oily, 60 wt.%). To the mixture was then added 5.12 g of 2-bromoethylamine hydrobromide, followed by stirring at room temperature for 20 hours. To the reaction mixture was added 8.19 g of di-tert-butyl dicarbonate, which was stirred for 30 minutes at room temperature, followed by distilling off the solvent under reduced pressure. To the residue was added 100 ml of chloroform, which was washed with water, followed by drying over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was subjected to a silica gel (100 g) column chromatography. The column was developed with a mixture of ethyl acetate and hexane (1:1), followed by elution with ethyl acetate. The eluate was concentrated under reduced pressure to give 4.74 g of 4-(2-tert-butoxycarbonylaminoethylthio)pyridine as a yellow oily product.

reactant | 4-mercaptopyridine | 2.78 g | SC1=CC=NC=C1 | C5H5NS
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | 2-bromoethylamine hydrobromide | 5.12 g | Br.BrCCN
reactant | di-tert-butyl dicarbonate | 8.19 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4-(2-tert-butoxycarbonylaminoethylthio)pyridine | 4.74 g | C(C)(C)(C)OC(=O)NCCSC1=CC=NC=C1 | C12H18N2O2S
